US07151105B2
Step 2: 2,2,2-trifluoro-1 -(2-methoxyphenyl)ethanol
10% Palladium on carbon (1.5 g) was added to a solution of 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanone (3.0 g) in methanol (50 ml). The resultant was hydrogenated at room temperature for 12 hrs. After which time the catalyst was filtered off through a plug of celiteand the solvent concentrated in vacuuo. The crude was purified by column chromatography on silica gel eluting with 100% hexanes the 80:20 hexanes:ethylacetate to afford the title compound as a yellow oil (3.0 g). 1H NMR (CDCl3): δ 3.75 (d, J=2.56 Hz, 1 H), 3.96 (s, 3 H), 5.35 (m,1 H), 7.05 (m, 2 H), 7.50 (m, 2 H).

reactant | 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanone | 3.0 g | FC(C(=O)C1=C(C=CC=C1)OC)(F)F | C9H7F3O2
catalyst | Palladium on carbon | 1.5 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 2,2,2-trifluoro-1 -(2-methoxyphenyl)ethanol | 3.0 g | FC(C(O)C1=C(C=CC=C1)OC)(F)F | C9H9F3O2
